US04273779
The starting material is prepared as follows: The mixture of 17.4 g of 5-aminopyridine-2-carboxylic acid methyl ester, 14.0 g of benzaldehyde and 100 ml of benzene is stirred and refluxed on a water separator for 6.5 hours. The resulting clear solution is evaporated, and the residue recrystallized from benzene-hexane first, then from acetonitrile-diethyl ether, to yield the 5-benzylideneaminopyridine-2-carboxylic acid methyl ester, melting at 84°-89°.

reactant | 5-aminopyridine-2-carboxylic acid methyl ester | 17.4 g | COC(=O)C1=NC=C(C=C1)N | C7H8N2O2
reactant | benzaldehyde | 14.0 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | benzene | 100 ml | C1=CC=CC=C1 | C6H6
solvent | water | O | H2O
product | 5-benzylideneaminopyridine-2-carboxylic acid methyl ester | COC(=O)C1=NC=C(C=C1)N=CC1=CC=CC=C1 | C14H12N2O2
